* Extracted by KLayout with SG13G2 LVS runset on : 12/04/2026 17:30

.SUBCKT contador1bit
M$1 \$8 \$2 \$7 \$1 sg13_lv_nmos L=0.15u W=0.75u AS=0.525p AD=0.255p PS=3.38u
+ PD=2.18u
M$2 \$1 \$4 \$8 \$1 sg13_lv_nmos L=0.15u W=3u AS=1.02p AD=0.525p PS=6.68u
+ PD=3.38u
M$3 \$6 \$3 \$7 \$1 sg13_lv_nmos L=0.15u W=0.75u AS=0.525p AD=0.255p PS=3.38u
+ PD=2.18u
M$4 \$1 \$5 \$6 \$1 sg13_lv_nmos L=0.15u W=3u AS=1.02p AD=0.525p PS=6.68u
+ PD=3.38u
M$5 \$1 \$2 \$3 \$1 sg13_lv_nmos L=0.15u W=0.75u AS=0.255p AD=0.255p PS=2.18u
+ PD=2.18u
M$6 \$1 \$4 \$5 \$1 sg13_lv_nmos L=0.15u W=0.75u AS=0.255p AD=0.255p PS=2.18u
+ PD=2.18u
M$7 \$1 \$19 \$20 \$1 sg13_lv_nmos L=0.15u W=0.75u AS=0.255p AD=0.255p PS=2.18u
+ PD=2.18u
M$8 \$1 \$13 \$20 \$1 sg13_lv_nmos L=0.15u W=0.75u AS=0.255p AD=0.255p PS=2.18u
+ PD=2.18u
M$9 \$1 \$14 \$2 \$1 sg13_lv_nmos L=0.15u W=0.75u AS=0.255p AD=0.255p PS=2.18u
+ PD=2.18u
M$10 \$1 \$13 \$2 \$1 sg13_lv_nmos L=0.15u W=0.75u AS=0.255p AD=0.255p PS=2.18u
+ PD=2.18u
M$11 \$1 \$28 \$29 \$1 sg13_lv_nmos L=0.13u W=0.15u AS=0.1005p AD=0.1005p
+ PS=1.34u PD=1.34u
M$12 \$1 \$2 \$27 \$1 sg13_lv_nmos L=0.13u W=0.15u AS=0.1005p AD=0.0555p
+ PS=1.34u PD=0.74u
M$13 \$27 \$4 \$28 \$1 sg13_lv_nmos L=0.13u W=0.15u AS=0.0555p AD=0.1005p
+ PS=0.74u PD=1.34u
M$14 \$19 \$9 \$14 \$1 sg13_lv_nmos L=0.15u W=0.75u AS=0.255p AD=0.255p
+ PS=2.18u PD=2.18u
M$15 \$14 \$12 \$34 \$1 sg13_lv_nmos L=0.15u W=0.75u AS=0.255p AD=0.255p
+ PS=2.18u PD=2.18u
M$16 \$40 \$9 \$20 \$1 sg13_lv_nmos L=0.15u W=0.75u AS=0.255p AD=0.255p
+ PS=2.18u PD=2.18u
M$17 \$7 \$12 \$40 \$1 sg13_lv_nmos L=0.15u W=0.75u AS=0.255p AD=0.255p
+ PS=2.18u PD=2.18u
M$18 \$1 \$2 \$34 \$1 sg13_lv_nmos L=0.13u W=0.15u AS=0.1005p AD=0.1005p
+ PS=1.34u PD=1.34u
M$19 \$1 \$40 \$19 \$1 sg13_lv_nmos L=0.13u W=0.15u AS=0.1005p AD=0.1005p
+ PS=1.34u PD=1.34u
M$20 \$1 \$12 \$9 \$1 sg13_lv_nmos L=0.13u W=0.15u AS=0.1005p AD=0.1005p
+ PS=1.34u PD=1.34u
M$21 \$30 \$4 \$5 \$30 sg13_lv_pmos L=0.15u W=0.75u AS=0.255p AD=0.255p
+ PS=2.18u PD=2.18u
M$22 \$30 \$2 \$3 \$30 sg13_lv_pmos L=0.15u W=0.75u AS=0.255p AD=0.255p
+ PS=2.18u PD=2.18u
M$23 \$30 \$5 \$32 \$30 sg13_lv_pmos L=0.15u W=0.75u AS=0.255p AD=0.27p
+ PS=2.18u PD=1.88u
M$24 \$32 \$2 \$7 \$30 sg13_lv_pmos L=0.15u W=1.5u AS=0.27p AD=0.51p PS=1.88u
+ PD=3.68u
M$25 \$32 \$4 \$7 \$30 sg13_lv_pmos L=0.15u W=0.75u AS=0.27p AD=0.255p PS=1.88u
+ PD=2.18u
M$26 \$30 \$3 \$32 \$30 sg13_lv_pmos L=0.15u W=1.5u AS=0.51p AD=0.27p PS=3.68u
+ PD=1.88u
M$27 \$30 \$2 \$28 \$30 sg13_lv_pmos L=0.13u W=0.15u AS=0.1005p AD=0.1005p
+ PS=1.34u PD=1.34u
M$28 \$30 \$4 \$28 \$30 sg13_lv_pmos L=0.13u W=0.15u AS=0.1005p AD=0.1005p
+ PS=1.34u PD=1.34u
M$29 \$30 \$28 \$29 \$30 sg13_lv_pmos L=0.13u W=0.15u AS=0.1005p AD=0.1005p
+ PS=1.34u PD=1.34u
M$30 \$30 \$19 \$31 \$30 sg13_lv_pmos L=0.15u W=3u AS=1.02p AD=0.57p PS=6.68u
+ PD=3.38u
M$31 \$31 \$13 \$20 \$30 sg13_lv_pmos L=0.15u W=3u AS=0.57p AD=1.02p PS=3.38u
+ PD=6.68u
M$32 \$30 \$2 \$34 \$30 sg13_lv_pmos L=0.13u W=0.15u AS=0.1005p AD=0.1005p
+ PS=1.34u PD=1.34u
M$33 \$19 \$12 \$14 \$30 sg13_lv_pmos L=0.15u W=1.5u AS=0.51p AD=0.51p PS=3.68u
+ PD=3.68u
M$34 \$14 \$9 \$34 \$30 sg13_lv_pmos L=0.15u W=1.5u AS=0.51p AD=0.51p PS=3.68u
+ PD=3.68u
M$35 \$30 \$14 \$33 \$30 sg13_lv_pmos L=0.15u W=3u AS=1.02p AD=0.57p PS=6.68u
+ PD=3.38u
M$36 \$33 \$13 \$2 \$30 sg13_lv_pmos L=0.15u W=3u AS=0.57p AD=1.02p PS=3.38u
+ PD=6.68u
M$37 \$30 \$40 \$19 \$30 sg13_lv_pmos L=0.13u W=0.15u AS=0.1005p AD=0.1005p
+ PS=1.34u PD=1.34u
M$38 \$30 \$12 \$9 \$30 sg13_lv_pmos L=0.13u W=0.15u AS=0.1005p AD=0.1005p
+ PS=1.34u PD=1.34u
M$39 \$40 \$12 \$20 \$30 sg13_lv_pmos L=0.15u W=1.5u AS=0.51p AD=0.51p PS=3.68u
+ PD=3.68u
M$40 \$7 \$9 \$40 \$30 sg13_lv_pmos L=0.15u W=1.5u AS=0.51p AD=0.51p PS=3.68u
+ PD=3.68u
.ENDS contador1bit
